US05728886
Preparation of 2-diphenylphosphinomethyl-2'-methylbiphenyl
4 g (9.0 mmol) of 6,6-diphenyl-6,7-dihydro-5H-dibenzo-[c,e]phosphepinium bromide are suspended in 70 ml of absolute toluene under protective gas and reacted with 680 mg (18 mmol) of lithium aluminum hydride using a method analogous to Example 5.

reactant | 6,6-diphenyl-6,7-dihydro-5H-dibenzo-[c,e]phosphepinium bromide | 9.0 mmol, 4 g | [Br-].C1(=CC=CC=C1)[P+]1(CC2=C(C3=C(C1)C=CC=C3)C=CC=C2)C2=CC=CC=C2
reactant | lithium aluminum hydride | 18 mmol, 680 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-diphenylphosphinomethyl-2'-methylbiphenyl | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1=C(C=CC=C1)C1=C(C=CC=C1)C | C26H23P
